US07196090B2
1-Cyclopropyl-3-(2,6-difluoro-3,5-dimethoxy-phenyl)-7-methylsulfanyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one
A solution of 7.66 g (20.0 mmol) of cyclopropyl-(5-[(2,6-difluoro-3,5-dimethoxy-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl)-amine in 150 mL of dry THF was cooled to 0° C. To this solution was added 2.00 g (50.1 mmol, 2.5 equivalents) of NaH as a 60% oil suspension. The reaction was stirred for 0.5 hour, the ice bath was removed, and the reaction was stirred for another 0.5 hour. To the reaction was added 9.74 g (60.1 mmol, 3.0 equivalents) of CDI. After 0.5 hour the reaction was warmed to reflux for 24 hous.r The reaction was concentrated in vacuo and the residue was partitioned between dichloromethane and a saturated solution of ammonium chloride. The dichloromethane layer was washed again with ammonium chloride and then once with a saturated solution of NaCl, dried, and concentrated in vacuo. The residue was stirred with diethyl ether and the suspension filtered to give 7.73 g (93%) of the title compound as a solid: mp 173° C.–176° C. MS (APCI) (m+1)/z 409.1 Analysis calculated for C18H18F2N4SO3: C, 52.93; H, 4.44; N, 13.72. Found: C, 52.74; H, 4.34; N, 13.80.

reactant | cyclopropyl-(5-[(2,6-difluoro-3,5-dimethoxy-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl)-amine | 20.0 mmol, 7.66 g | C1(CC1)NC1=NC(=NC=C1CNC1=C(C(=CC(=C1F)OC)OC)F)SC | C17H20F2N4O2S
reactant | NaH | 50.1 mmol, 2.00 g, 2.5 equivalents | [H-].[Na+]
reactant | CDI | 60.1 mmol, 9.74 g, 3.0 equivalents | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-Cyclopropyl-3-(2,6-difluoro-3,5-dimethoxy-phenyl)-7-methylsulfanyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 7.73 g, 93% | C1(CC1)N1C(N(CC=2C1=NC(=NC2)SC)C2=C(C(=CC(=C2F)OC)OC)F)=O | C18H18F2N4O3S
